US05091407
Sodium hydride (0.88 g, 0.018 mol, 50% dispersion in oil) was washed with dry petrol 40°-60° and suspended in DMF (15 ml). A mixture of methyl [5-phenyl-1,2,4-triazol1-yl]-acetate (2.0 Og, 0.009 mol) and methyl formate (11.4 ml, 0.18 mol) in DMF (15 ml) was added at room temperature with stirring over 10 minutes. After 2 hours aqueous potassium carbonate (200 ml, 10%) was added and the aqueous layer extracted with diethyl ether (2×100 ml), then the aqueous layer was neutralised with concentrated hydrochloric acid and then extracted with ethyl acetate (3×150 ml). The ethyl acetate extract was washed with brine and dried then evaporated under reduced pressure to give methyl 3-hydroxy-2-[5-phenyl-1,2,4-triazol-1-yl]acrylate (2.2 g) as a yellow oil.

reactant | Sodium hydride | 0.018 mol, 0.88 g | [H-].[Na+]
reactant | methyl [5-phenyl-1,2,4-triazol1-yl]-acetate | 0.009 mol | C1(=CC=CC=C1)C1=NC=NN1CC(=O)OC | C11H11N3O2
reactant | methyl formate | 0.18 mol, 11.4 ml | C(=O)OC | C2H4O2
reactant | potassium carbonate | 200 ml | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | methyl 3-hydroxy-2-[5-phenyl-1,2,4-triazol-1-yl]acrylate | 2.2 g | OC=C(C(=O)OC)N1N=CN=C1C1=CC=CC=C1 | C12H11N3O3
